US05916922
3-Phenoxyanisole (8.3 g) was added to a mixture of 50 mL of 40% HBr and 100 mL of glacial acetic acid. The resultant mixture was heated under reflux for 48 hours, then cooled and concentrated under reduced pressure. The residue was taken up in EtOAc, washed with water, saturated NaHCO3, and brine. After drying with MgSO4, and concentration under reduced pressure, 3-phenoxyphenol was obtained and used without further purification.

reactant | 3-Phenoxyanisole | 8.3 g | O(C1=CC=CC=C1)C=1C=C(C=CC1)OC | C13H12O2
reactant | HBr | 50 mL | Br | BrH
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 3-phenoxyphenol | O(C1=CC=CC=C1)C=1C=C(C=CC1)O | C12H10O2
